US09326973B2
To a solution of diisopropylamine (1.203 mL, 8.44 mmol) in THF (10 mL) was added n-BuLi/hexane (3.38 mL, 8.44 mmol) dropwise at −78° C. The reaction mixture was stirred in the bath for 5 min and then stirred in ice bath for 30 min. The reaction mixture was added dropwise a solution of tert-butyl cyclopropanecarboxylate (1 g, 7.03 mmol) in THF (5 mL) at −78° C. The reaction mixture was stirred at −78° C. for 2 h. The solution of benzaldehyde (0.746 g, 7.03 mmol) in THF (2 mL) was added dropwise at −78° C. Then the solution was allowed to warm to room temperature and stirred for 1 h. The reaction was quenched with NH4Cl, then diluted with EtOAc. Then organic phase was washed with sat. NaHCO3, water, sat. NaCl, dried over anhydrous Na2SO4, and concentrated to yield an oil. The crude was purified by silica chromatography with 0-50% EtOAc/Hex to yield tert-butyl 1-(hydroxy(phenyl)methyl)cyclopropanecarboxylate (1.01 g, 57.8% yield) as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) ppm 7.48-7.40 (m, 2H), 7.38-7.23 (m, 3H), 4.70 (d, J=7.5 Hz, 1H), 3.55 (d, J=7.8 Hz, 1H), 1.43-1.33 (m, 10H), 1.17 (ddd, J=9.6, 6.6, 3.9 Hz, 1H), 0.99-0.79 (m, 2H).

reactant | diisopropylamine | 8.44 mmol, 1.203 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi hexane | 8.44 mmol, 3.38 mL | [Li]CCCC.CCCCCC
reactant | tert-butyl cyclopropanecarboxylate | 7.03 mmol, 1 g | C1(CC1)C(=O)OC(C)(C)C | C8H14O2
reactant | benzaldehyde | 7.03 mmol, 0.746 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-butyl 1-(hydroxy(phenyl)methyl)cyclopropanecarboxylate | 1.01 g, 57.8% yield | OC(C1(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C15H20O3
